US06232316B1
(2R)-(4E)-5-(3-Pyridyl)4-penten-2-ol p-Toluenesulfonate
To a stirring solution of (2R)-(4E)-5-(3-pyridyl)-4-penten-2-ol (6.00 g, 36.81 mmol) in dry pyridine (30 mL) at 0° C. was added p-toluenesulfonyl chloride (21.05 g, 110.43 mmol). The reaction mixture was stirred for 24 h at ambient temperature. The pyridine was removed by rotary evaporation. Toluene (50 mL) was added to the residue and subsequently removed by rotary evaporation. The crude product was stirred with a saturated solution of sodium bicarbonate (100 mL) and extracted with chloroform (3×100 mL). The combined chloroform extracts were dried over sodium sulfate, filtered, and concentrated by rotary evaporation to give 11.67 g (84.0%) of a dark-brown, viscous oil.

reactant | (2R)-(4E)-5-(3-pyridyl)-4-penten-2-ol | 36.81 mmol, 6.00 g | N1=CC(=CC=C1)/C=C/C[C@@H](C)O | C10H13NO
reactant | p-toluenesulfonyl chloride | 110.43 mmol, 21.05 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | pyridine | 30 mL | N1=CC=CC=C1 | C5H5N
product | (2R)-(4E)-5-(3-Pyridyl)4-penten-2-ol p-Toluenesulfonate | C1(=CC=C(C=C1)S(=O)(=O)O[C@H](C)C\C=C\C=1C=NC=CC1)C | C17H19NO3S
